US05591752
11-(2-Carboxyethylthio)-8-carboxymethylthio-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 260)
8-carboxymethylthio-2-(7-chloroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine and 3-mercaptopropionic acid were used and reacted in the same manner as in Example 1 to obtain the title compound.

reactant | 8-carboxymethylthio-2-(7-chloroquinolin-2-yl)methoxy-11-hydroxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CSC1=CC2=C(C(C3=C(OC2)C=CC(=C3)OCC3=NC2=CC(=CC=C2C=C3)Cl)O)C=C1 | C26H20ClNO5S
reactant | 3-mercaptopropionic acid | SCCC(=O)O | C3H6O2S
product | 11-(2-Carboxyethylthio)-8-carboxymethylthio-2-(7-chloroquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CCSC1C2=C(OCC3=C1C=CC(=C3)SCC(=O)O)C=CC(=C2)OCC2=NC3=CC(=CC=C3C=C2)Cl | C29H24ClNO6S2
